US04801705
To a suspension of 6.2 g (0.017 mol) of 3-[3,4-bis(acetyloxy)benzoyl]-2-oxo-1-imidazolidinecarboxamide in 50 ml of a 1:1 mixture of ethanol/water was added dropwise 2.1 ml of ammonia. After stirring for 10 minutes, a clear solution formed from which 3-(3,4-dihydroxybenzoyl)-2-oxo-1-imidazolidinecarboxamide began to crystallize after 15 minutes, yielding 3.8 g.

reactant | 3-[3,4-bis(acetyloxy)benzoyl]-2-oxo-1-imidazolidinecarboxamide | 0.017 mol, 6.2 g | C(C)(=O)OC=1C=C(C(=O)N2C(N(CC2)C(=O)N)=O)C=CC1OC(C)=O | C15H15N3O7
reactant | ammonia | 2.1 ml | N | H3N
solvent | ethanol water | C(C)O.O
product | 3-(3,4-dihydroxybenzoyl)-2-oxo-1-imidazolidinecarboxamide | OC=1C=C(C(=O)N2C(N(CC2)C(=O)N)=O)C=CC1O | C11H11N3O5
